US05017724
A mixture of 25 g of 5-methyl-8-hydroxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone, 62.5 ml of acetic anhydride and 18.88 ml of bisdimethylaminomethane was stirred with heating at 90° C. for 2 hours. The reaction mixture was left to stand for cooling and then to the reaction mixture was added saturated aqueous sodium chloride solution, followed by extraction with dichloromethane. The organic layer was dried with magnesium sulfate and then the solvent was distilled off. The residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:10) to obtain 14.37 g of 7-dimethylaminomethyl-8-hydroxy-5-methyl-1,2,3,4,4a,9a-hexahydro-9-fluorenone.

reactant | 5-methyl-8-hydroxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 25 g | CC1=C2C3CCCCC3C(C2=C(C=C1)O)=O | C14H16O2
reactant | acetic anhydride | 62.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | bisdimethylaminomethane | 18.88 ml | CN(C)CN(C)C | C5H14N2
reactant | sodium chloride | [Cl-].[Na+]
product | 7-dimethylaminomethyl-8-hydroxy-5-methyl-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 14.37 g | CN(C)CC1=CC(=C2C3CCCCC3C(C2=C1O)=O)C | C17H23NO2
